US04520154
Yield: 60 g (95%) of hexamethylene bis(thiosulphate)N-tert-butyl-N-benzylammonium salt.
1,4-bis(chloromethyl)cyclohexane (0.165 mole), sodium thiosulphate pentahydrate (0.369 mole) sodium sulfite (6.1 g), methanol (150 ml) and water (150 ml) were charged into an autoclave and heated at 135° C. for 45 minutes. To the cooled reaction mixture, which was a solution of 1,4-dimethylcyclohexane-α,α-bis(thiosulphate)sodium salt, 400 ml of water was added. N-tert-butylbenzylamine (0.306 mole) in 150 ml methanol and 850 ml H2O was adjusted with concentrated HCl to pH4, and the resulting solution was added with stirring to the thiosulphate solution. The white precipitate was filtered, washed with water and dried. Yield: 92 g, (91%) of 1,4-dimethylcyclohexane-α,α-bis(thiosulphate)N-tert-butyl, N-benzylammonium salt.

reactant | 1,4-bis(chloromethyl)cyclohexane | 0.165 mole | ClCC1CCC(CC1)CCl | C8H14Cl2
reactant | sodium thiosulphate pentahydrate | 0.369 mole, 6.1 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | N-tert-butylbenzylamine | 0.306 mole | C(C)(C)(C)NCC1=CC=CC=C1 | C11H17N
reactant | HCl | Cl | ClH
reactant | thiosulphate | S(=S)(=O)([O-])[O-]
solvent | methanol | 150 ml | CO | CH4O
solvent | H2O | 850 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | hexamethylene bis(thiosulphate)N-tert-butyl-N-benzylammonium salt | C(C)(C)(C)[NH2+]CC1=CC=CC=C1.S(=S)(=O)(OCCCCCCOS(=S)(=O)[O-])[O-].C(C)(C)(C)[NH2+]CC1=CC=CC=C1 | InChI=1S/2C11H17N.C6H14O6S4/c2*1-11(2,3)12-9-10-7-5-4-6-8-10;7-15(8,13)11-5-3-1-2-4-6-12-16(9,10)14/h2*4-8,12H,9H2,1-3H3;1-6H2,(H,7,8,13)(H,9,10,14)
